US07220862B2
7,7-Dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 5-dimethylaminomethylene-3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (6.35 g, 22 mmol) in methanol (15 mL) was added hydrazine hydrate (1.2 mL, 1.1 equiv). The solution was stirred at room temperature overnight and concentrated to give 5.3 g (94%) which was used without purification. Mass spec.: 252.19 (MH)+.

reactant | 5-dimethylaminomethylene-3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 22 mmol, 6.35 g | C(C)(C)(C)OC(=O)N1CC(C(C(C1)=CN(C)C)=O)(C)C | C15H26N2O3
reactant | hydrazine hydrate | 1.2 mL, 1.1 equiv | O.NN
solvent | methanol | 15 mL | CO | CH4O
product | 7,7-Dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(C(C1)(C)C)NN=C2 | C13H21N3O2
